US04677111
3.0 g of 3,6-dibromopyridazine was dissolved in 15 ml of dimethyl sulfoxide. To this solution, a mixture of 2.0 g of 4-amino-2-nitrophenol, 3.6 g of potassium carbonate and 10 ml of water was added and, after flushing with nitrogen, the mixture was reacted at a temperature of from 100° to 110° C. for 2 hours. After the completion of the reaction, the reaction product was cooled and poured into water, and then extracted with methylene chloride. The extract layer was washed with an aqueous sodium hydroxide solution and then with water, and dried over anhydrous sodium sulfate. Then, the solvent was distilled off, whereby 2.4 g of 4-(6-bromo-3-pyridazinyloxy)-3-nitroaniline was obtained. (2) 1.0 g of 4-(6-bromo-3-pyridazinyloxy)-3-nitroaniline obtained in the above step (1) was dissolved in 20 ml of dioxane. To this solution, 8 ml of a dioxane solution containing 0.62 g of 2-nitrobenzoyl isocyanate was added, and the mixture was reacted at room temperature for 15 hours. After the completion of the reaction, the reaction product was poured into water and collected by filtration. The obtained solid was dried and, after the addition of methylene chloride, again subjected to filtration, whereby 1.0 g of the desired product having a melting point of from 222° to 225° C. was obtained.

reactant | 3,6-dibromopyridazine | 3.0 g | BrC=1N=NC(=CC1)Br | C4H2Br2N2
reactant | 4-amino-2-nitrophenol | 2.0 g | NC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-(6-bromo-3-pyridazinyloxy)-3-nitroaniline | 2.4 g | BrC1=CC=C(N=N1)OC1=C(C=C(N)C=C1)[N+](=O)[O-] | C10H7BrN4O3
